US05201932
4-Ethoxycarbonyl-5-methylisoxazole-3-carboxylic acid
At -15° to -10° C. and under a nitrogen blanket, 4.7 g (0.117 mol) of sodium hydroxide in 80 ml of water was dripped into 25.0 g (0.117 mol) of methyl 4-ethoxycarbonyl-5-methylisoxazole-3-carboxylate in 200 ml of anhydrous tetrahydrofuran, and the mixture was stirred for 12 hours. The solvents were stripped off in a rotary evaporator (bath temperature: 30°-35° C.), the residue was taken up in 250 ml of water, the pH was adjusted to 8-9 with hydrochloric acid, and the mixture was extracted twice, each time with 150 ml of diethylether. The aqueous phase was acidified to a pH of 2 with 6N HCl and extracted four times, each time with 250 ml of ethyl acetate. The combined organic phases were dried over magnesium sulfate and the solvent was stripped off under reduced pressure. Yield: 70%; 1H-NMR (250 MHz; CDCl3); δ=1.42 ppm (t; 3H), 2.80 ppm (s; 3H), 4.59 ppm (q; 2H).

reactant | sodium hydroxide | 0.117 mol, 4.7 g | [OH-].[Na+]
reactant | methyl 4-ethoxycarbonyl-5-methylisoxazole-3-carboxylate | 0.117 mol, 25.0 g | C(C)OC(=O)C=1C(=NOC1C)C(=O)OC | C9H11NO5
solvent | water | 80 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-Ethoxycarbonyl-5-methylisoxazole-3-carboxylic acid | Yield: 70% | C(C)OC(=O)C=1C(=NOC1C)C(=O)O | C8H9NO5
